2121-03-04 10:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2121-3-3**] 01:41 PM
 INVASIVE VENTILATION - START [**2121-3-3**] 01:56 PM
 EKG - At [**2121-3-3**] 02:45 PM
 ARTERIAL LINE - START [**2121-3-3**] 02:45 PM
 BRONCHOSCOPY - At [**2121-3-3**] 03:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2121-3-3**] 08:59 PM
   Bactrim (SMX/TMP) - [**2121-3-4**] 02:07 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2121-3-3**] 08:00 PM
   Fentanyl - [**2121-3-3**] 10:09 PM
   Midazolam (Versed) - [**2121-3-3**] 10:10 PM
   Heparin Sodium (Prophylaxis) - [**2121-3-3**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-3-4**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 57 (56 - 74) bpm
   BP: 133/67(87) {129/66(86) - 158/87(110)} mmHg
   RR: 23 (12 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 17 (8 - 19)mmHg
   Total In:
                                                                  4,085 mL
                                                                  1,100 mL
   PO:
   TF:
   IVF:
                                                                  1,335 mL
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    940 mL
   Urine:
                                                                    925 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,260 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 93%
   ABG: 7.39/52/71/32/4
   Ve: 10.9 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   254 K/uL
   97 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.4 mEq/L
   17 mg/dL
   100 mEq/L
   136 mEq/L
   30.1 %
   18.7 K/uL
        [image002.jpg]
                             [**2121-3-3**]  01:50 PM
                             [**2121-3-3**]  03:14 PM
                             [**2121-3-3**]  08:57 PM
                             [**2121-3-3**]  10:41 PM
                             [**2121-3-4**]  12:53 AM
                             [**2121-3-4**]  05:21 AM
                             [**2121-3-4**]  05:53 AM
   WBC
   16.6
   18.7
   Hct
   31.3
   30.1
   Plt
   244
   254
   Cr
   0.6
   0.6
   TropT
   0.08
   TCO2
   32
   30
   36
   31
   33
   Glucose
   106
   97
   Other labs: PT / PTT / INR:15.3/27.9/1.4, CK / CKMB /
   Troponin-T:42/4/0.08, ALT / AST:17/34, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:89.0 %, Band:2.0 %, Lymph:5.0 %, Mono:1.0 %, Eos:0.0
   %, Albumin:2.3 g/dL, LDH:393 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.8 mg/dL
   Imaging: No new imaging.
   Microbiology: Respiratory viral screen negative.  BAL with no
   organisms, negative legionella, negative PCP
   Assessment and [**Name9 (PRE) 99**]
   44 yo man with a history of methamphetamine use, chronic pain, and COPD
   who presented with dyspnea, progressing to hypoxemic/hypercarbic
   respiratory failure as well as elevated troponin, and is now being
   transferred to the [**Hospital Unit Name 4**] for further management.
   1.  Respiratory failure - Appearance of chest x ray consistant with
   infectious pneumonia versus pulmonary edema versus injury from drug
   inhalation.  Infection is supported by leukocytosis with bandemia,
   although he has been afebrile.  Negative serology for HIV 2 months ago,
   but given radiologic pattern, some suspicion for PCP.  [**Name10 (NameIs) **] terms of
   pulmonary edema, does not seem volume overloaded and no history of
   heart failure, although currently has troponin leak and enlarged
   cardiac silhouette.  No stigmata of endocarditis.  ? myocarditis.
   Meets criteria for ARDs - PaO2/FiO2 less than 200, bilateral airspace
   disease.
   -Continue to cover broadly with levo, bactrim, vanc until culture data
   back
   -F/U culture data
   -F/U viral DFA
   -Continue steroids until negative for PCP
   [**Name9 (PRE) 4700**] net protocol - also seems to have an element of COPD, has
   increased lung compliance (COPD/Asthma) so can have slightly increased
   Vt if necessary to decrease FiO2
   -Check CVP
   -Q4hr albuterol nebs
   -Wean Fi02 as possible
   -sedation with versed/fentanyl with propofol for agitation
   2.Elevated Troponin - Troponin to 1.22 at OSH, with report of
   nonspecific ST changes on EKG, no elevated CK, ? of demand ischemia
   with no history of CAD .  Troponin now trending down.
   -Cards consult
   -TTE
   -Repeat EKG
   -ASA 325mg, atorvastatin 80mg, metoprolol 12.5 [**Hospital1 **] (d/c propranolol)
   3.  Asthma/COPD
   -Steroids and nebs as above
   4.  Pain control
   -continue fentanyl/versed for sedation
   -consult SW after extubation
   ICU
   Nutrition:  On tube feeds, consult nutrition
   Access: Right SC CVL from OSH (will need to be replaced); 2 PIVs; left
   A-line placed here on [**3-3**]
   PPx: heparin sc, famotidine
   Code: FULL
   Dispo: ICU
   Comm:  [**Name (NI) 2086**] [**Known lastname 4678**] Wife [**Telephone/Fax (1) 4679**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-3-3**] 01:41 PM
   18 Gauge - [**2121-3-3**] 01:43 PM
   Arterial Line - [**2121-3-3**] 02:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2121-03-05 11:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2121-3-4**] 02:07 AM
   Levofloxacin - [**2121-3-4**] 10:45 PM
   Vancomycin - [**2121-3-5**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Propofol - 30 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2121-3-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2121-3-5**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Patient
s wife stated they do not have a sexual relationship as patient
   is gay and has sex with other men.  Last HIV neg 2mo ago.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-3-5**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 47 (47 - 59) bpm
   BP: 162/74(104) {126/61(82) - 162/76(104)} mmHg
   RR: 22 (18 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
   CVP: 15 (6 - 16)mmHg
   Total In:
                                                                  3,403 mL
                                                                  1,571 mL
   PO:
   TF:
                                                                    400 mL
                                                                    255 mL
   IVF:
                                                                  2,843 mL
                                                                    997 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                  1,065 mL
   Urine:
                                                                  1,755 mL
                                                                  1,065 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,643 mL
                                                                    506 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.42/53/94.[**Numeric Identifier 299**]/32/7
   Ve: 10.4 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished, No acute distress, diaphoretic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   264 K/uL
   119 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.5 mEq/L
   19 mg/dL
   101 mEq/L
   138 mEq/L
   29.3 %
   14.0 K/uL
        [image002.jpg]
                             [**2121-3-3**]  03:14 PM
                             [**2121-3-3**]  08:57 PM
                             [**2121-3-3**]  10:41 PM
                             [**2121-3-4**]  12:53 AM
                             [**2121-3-4**]  05:21 AM
                             [**2121-3-4**]  05:53 AM
                             [**2121-3-4**]  01:19 PM
                             [**2121-3-4**]  06:18 PM
                             [**2121-3-5**]  03:55 AM
                             [**2121-3-5**]  04:27 AM
   WBC
   18.7
   14.0
   Hct
   30.1
   29.3
   Plt
   254
   264
   Cr
   0.6
   0.6
   TropT
   0.08
   TCO2
   32
   30
   36
   31
   33
   34
   34
   36
   Glucose
   97
   119
   Other labs: PT / PTT / INR:15.3/27.9/1.4, CK / CKMB /
   Troponin-T:29/2/0.08, ALT / AST:17/34, Alk Phos / T Bili:166/0.2,
   Amylase / Lipase:142/93, Differential-Neuts:89.0 %, Band:2.0 %,
   Lymph:5.0 %, Mono:1.0 %, Eos:0.0 %, Albumin:2.3 g/dL, LDH:393 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR - Decreasing bibasilar infiltrates. Clearing of CP
   angles.
   Microbiology: BAL - No fungus. No AFB. OSH
 blood cultures NTGD;
   BAL/sputum
 rare yeast (not [**Female First Name (un) 474**])
   Assessment and Plan
   44 yo man with a history of methamphetamine use, chronic pain, and COPD
   who presented with hypoxemic/hypercarbic respiratory failure c/b demand
   ischemia.  Transferred to [**Hospital Unit Name 4**] from OSH for continued management.
   # Respiratory failure
 ARDS [**2-17**] aspiration PNA vs inhalational injury
   from crystal meth.  H/o asthma/COPD.
   - Try PS today [**10-27**]
   - Continue to follow BAL results
   - Continue levo/vanc
   - Propofol for sedation
   - Advance ET tube 2 cm
   - Continue nebs/steroids (start weaning) for COPD/asthma
   # Polysubstance abuse: concerns for narcotic withdrawal given
   agitation/diphoresis
   - Start fentanyl TD (50mcg) for sedation/withdrawal
   - F/U HIV test from OSH
   # Elevated Troponin
 C/w demand ischemia.  Troponin now trending
   down.  TTE unremarkable
   - ASA 81mg, Atorvastatin 20mg, Metoprolol 12.5 [**Hospital1 **]
   Other issues per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2121-3-5**] 06:10 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-3-3**] 01:41 PM
   18 Gauge - [**2121-3-3**] 01:43 PM
   Arterial Line - [**2121-3-3**] 02:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2121-03-06 10:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: hypoxemic resp failure
   24 Hour Events:
   FIO2 and PEEP weaned successfully over past 24 hrs. Still very easiily
   agitated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2121-3-4**] 02:07 AM
   Levofloxacin - [**2121-3-5**] 09:00 PM
   Vancomycin - [**2121-3-6**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-3-5**] 04:00 PM
   Famotidine (Pepcid) - [**2121-3-5**] 10:00 PM
   Lorazepam (Ativan) - [**2121-3-6**] 04:27 AM
   Fentanyl - [**2121-3-6**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-3-6**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 72 (47 - 86) bpm
   BP: 179/86(115) {134/62(85) - 187/86(117)} mmHg
   RR: 24 (9 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 8 (8 - 340)mmHg
   Total In:
                                                                  3,059 mL
                                                                    877 mL
   PO:
   TF:
                                                                    635 mL
   IVF:
                                                                  1,964 mL
                                                                    807 mL
   Blood products:
   Total out:
                                                                  3,325 mL
                                                                  3,330 mL
   Urine:
                                                                  3,325 mL
                                                                  3,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -266 mL
                                                                 -2,453 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (0 - 400) mL
   Vt (Spontaneous): 570 (486 - 717) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 12 cmH2O
   SpO2: 94%
   ABG: 7.46/49/76.[**Numeric Identifier 299**]/35/9
   Ve: 14.8 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   278 K/uL
   78 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.5 mEq/L
   15 mg/dL
   101 mEq/L
   139 mEq/L
   29.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2121-3-5**]  04:27 AM
                             [**2121-3-5**]  02:49 PM
                             [**2121-3-5**]  04:05 PM
                             [**2121-3-5**]  05:10 PM
                             [**2121-3-5**]  10:17 PM
                             [**2121-3-6**]  01:01 AM
                             [**2121-3-6**]  02:02 AM
                             [**2121-3-6**]  05:05 AM
                             [**2121-3-6**]  05:15 AM
                             [**2121-3-6**]  08:28 AM
   WBC
   12.5
   Hct
   29.9
   Plt
   278
   Cr
   0.6
   TCO2
   36
   34
   36
   36
   36
   36
   37
   37
   36
   Glucose
   78
   Other labs: PT / PTT / INR:15.3/27.9/1.4, CK / CKMB /
   Troponin-T:29/2/0.08, ALT / AST:17/34, Alk Phos / T Bili:166/0.2,
   Amylase / Lipase:142/93, Differential-Neuts:89.0 %, Band:2.0 %,
   Lymph:5.0 %, Mono:1.0 %, Eos:0.0 %, Albumin:2.3 g/dL, LDH:393 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: HIV negative from OSH
   Microbiology: No new data.
   Assessment and Plan
   44 yo man with a history of methamphetamine use, chronic pain, and COPD
   who presented with hypoxemic/hypercarbic respiratory failure c/b demand
   ischemia.  Transferred to [**Hospital Unit Name 4**] from OSH for continued management.
   # Respiratory failure
 ARDS [**2-17**] aspiration PNA vs inhalational injury
   from crystal meth.  H/o asthma/COPD.
   - Failed SBT today
 try again later today or in am
   - Continue to follow BAL results
   - Continue levo/vanc
   - Propofol for sedation. [**Month (only) 8**] need haldol if we d/c benzo
s today.
   - Continue nebs/steroids (Pred 40) for COPD/asthma
   #Fever: No clear source, but could be withdrawal.
   - Pan culture
   - Tylenol prn
   # Polysubstance abuse: concerns for narcotic withdrawal given
   agitation/diphoresis. Also has h/o significant anxiety disorder with
   high benzo requirements.
   - Start fentanyl TD (50mcg) for sedation/withdrawal
   - Benzos gtt
   # Elevated Troponin
 C/w demand ischemia.  Troponin now trending
   down.  TTE unremarkable
   - ASA 81mg, Atorvastatin 20mg, Metoprolol 12.5 [**Hospital1 **]
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-3-3**] 01:41 PM
   18 Gauge - [**2121-3-3**] 01:43 PM
   Arterial Line - [**2121-3-3**] 02:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 28 minutes
   Patient is critically ill

2121-03-07 10:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Aspiration event in setting of agitation
 flagyl added
   Valium for withdrawal/agitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2121-3-6**] 09:50 PM
   Vancomycin - [**2121-3-7**] 08:00 AM
   Metronidazole - [**2121-3-7**] 09:05 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2121-3-6**] 12:00 PM
   Fentanyl - [**2121-3-6**] 04:45 PM
   Famotidine (Pepcid) - [**2121-3-6**] 07:46 PM
   Heparin Sodium (Prophylaxis) - [**2121-3-6**] 11:56 PM
   Diazepam (Valium) - [**2121-3-7**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-3-7**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100.1
   HR: 100 (65 - 100) bpm
   BP: 140/76(95) {102/48(62) - 187/87(119)} mmHg
   RR: 29 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 2 (1 - 3)mmHg
   Total In:
                                                                  2,239 mL
                                                                    834 mL
   PO:
   TF:
   IVF:
                                                                  2,109 mL
                                                                    834 mL
   Blood products:
   Total out:
                                                                  7,830 mL
                                                                  2,100 mL
   Urine:
                                                                  7,730 mL
                                                                  2,100 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,591 mL
                                                                 -1,265 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 420 (420 - 514) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 13.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   368 K/uL
   87 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   11 mg/dL
   98 mEq/L
   137 mEq/L
   31.4 %
   14.7 K/uL
        [image002.jpg]
                             [**2121-3-5**]  02:49 PM
                             [**2121-3-5**]  04:05 PM
                             [**2121-3-5**]  05:10 PM
                             [**2121-3-5**]  10:17 PM
                             [**2121-3-6**]  01:01 AM
                             [**2121-3-6**]  02:02 AM
                             [**2121-3-6**]  05:05 AM
                             [**2121-3-6**]  05:15 AM
                             [**2121-3-6**]  08:28 AM
                             [**2121-3-7**]  04:35 AM
   WBC
   12.5
   14.7
   Hct
   29.9
   31.4
   Plt
   278
   368
   Cr
   0.6
   0.6
   TCO2
   34
   36
   36
   36
   36
   37
   37
   36
   Glucose
   78
   87
   Other labs: PT / PTT / INR:16.4/31.9/1.5, CK / CKMB /
   Troponin-T:29/2/0.08, ALT / AST:17/34, Alk Phos / T Bili:166/0.2,
   Amylase / Lipase:142/93, Differential-Neuts:91.6 %, Band:2.0 %,
   Lymph:6.4 %, Mono:1.2 %, Eos:0.4 %, Albumin:2.3 g/dL, LDH:393 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR - Improving, but with persistent LLL airspace/pleural
   disease.  Et tube at carina.
   Microbiology: B-glucan 88.
   Assessment and Plan
   44 yo man with a history of methamphetamine use, chronic pain, and COPD
   who presented with hypoxemic/hypercarbic respiratory failure c/b demand
   ischemia.  Transferred to [**Hospital Unit Name 4**] from OSH for continued management.
   # Respiratory failure
 ARDS [**2-17**] aspiration PNA vs inhalational injury
   from crystal meth.  Now with aspiration event yesterday. H/o
   asthma/COPD.
   - PS with attempts to extubate this afternoon using IV Valium for
   withdrawal
   - Unclear significance of b-glucan as no evidence of fungal
   infection/immunocompromised state
   - Continue levo/vanc, now + flagyl for aspiration coverage.
   - Propofol for sedation for now in addition to IV fentanyl.
   - Continue nebs/steroids (Pred 40) for COPD/asthma
   - Pull back ET tube 3cm.
   #Fever: No clear source, but could be withdrawal.
   - F/U cultures
   - Tylenol prn
   # Polysubstance abuse: concerns for narcotic withdrawal given
   agitation/diphoresis. Also has h/o significant anxiety disorder with
   high benzo requirements.
   - Fentanyl TD (50mcg)
   - Valium prn
   # Access: Need line resited today as from OSH.
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-3-3**] 01:41 PM will need PICC or CVL resited today
   18 Gauge - [**2121-3-3**] 01:43 PM
   Arterial Line - [**2121-3-3**] 02:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2121-03-09 11:59:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Respiratory failure / substance abuse
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 Extubated yesterday
MS improving but not at baseline
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2121-3-8**] 10:00 PM
   Vancomycin - [**2121-3-9**] 08:24 AM
   Metronidazole - [**2121-3-9**] 09:09 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2121-3-8**] 07:35 PM
   Heparin Sodium (Prophylaxis) - [**2121-3-9**] 12:20 AM
   Metoprolol - [**2121-3-9**] 05:50 AM
   Diazepam (Valium) - [**2121-3-9**] 10:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-3-9**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 86 (66 - 89) bpm
   BP: 138/71(92) {126/67(87) - 167/89(113)} mmHg
   RR: 35 (23 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,648 mL
                                                                    655 mL
   PO:
             TF:
   IVF:
                                                                  2,648 mL
                                                                    655 mL
   Blood products:
   Total out:
                                                                  3,230 mL
                                                                  1,020 mL
   Urine:
                                                                  2,930 mL
                                                                  1,020 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -582 mL
                                                                   -365 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 12 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   SpO2: 95%
   ABG: 7.56/30/64/25/4
   Ve: 13.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender
   Extremities: No(t) Cyanosis
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.3 g/dL
   445 K/uL
   99 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.1 mEq/L
   12 mg/dL
   104 mEq/L
   137 mEq/L
   30.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2121-3-7**]  04:35 AM
                             [**2121-3-8**]  12:59 AM
                             [**2121-3-8**]  01:12 AM
                             [**2121-3-8**]  03:45 AM
                             [**2121-3-8**]  09:44 AM
                             [**2121-3-8**]  02:07 PM
                             [**2121-3-8**]  07:38 PM
                             [**2121-3-8**]  07:58 PM
                             [**2121-3-9**]  04:26 AM
                             [**2121-3-9**]  11:38 AM
   WBC
   14.7
   13.3
   11.9
   Hct
   31.4
   29.4
   30.2
   31.7
   30.6
   Plt
   368
   392
   445
   Cr
   0.6
   0.5
   0.5
   TCO2
   31
   31
   30
   29
   28
   Glucose
   87
   96
   99
   Other labs: PT / PTT / INR:16.1/31.1/1.4, CK / CKMB /
   Troponin-T:29/2/0.08, ALT / AST:17/34, Alk Phos / T Bili:166/0.2,
   Amylase / Lipase:142/93, Differential-Neuts:89.9 %, Band:2.0 %,
   Lymph:6.9 %, Mono:2.2 %, Eos:0.8 %, Albumin:2.3 g/dL, LDH:393 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   44 yo man with a history of methamphetamine use, chronic pain, and COPD
   who presented with hypoxemic/hypercarbic respiratory failure c/b demand
   ischemia.  Transferred to [**Hospital Unit Name 4**] from OSH for continued management.
    # Respiratory failure:
   - Extubated yesterday, doing well
   - Currently overbreathing - resp alkalosis in setting of met alkalosis
   - anxiety vs. discomfort?  though on sig benzos, narcs so etiology not
   entirely clear
   - Continue levo/vanc/flagyl
   - Continue nebs/steroids (Pred 40) for COPD/asthma
   #Fever:
   - No clear source, but could be withdrawal.
   - F/U cultures
   - Tylenol prn
   # Polysubstance abuse: concerns for narcotic withdrawal given
   agitation/diphoresis. Also has h/o significant anxiety disorder with
   high benzo requirements.
   - Fentanyl TD (50mcg)
   - Valium prn
   #Nut
   - NPO for now
   #NSTEMI
   - no further evidence of further ischemia
   - will need cards workup once medically stabilized - stress test at
   some point either this admission or outpt f/u
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2121-3-3**] 02:45 PM
   PICC Line - [**2121-3-7**] 03:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2121-03-10 08:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory failure, substance abuse
   24 Hour Events:
 ARTERIAL LINE - STOP [**2121-3-9**] 02:03 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2121-3-9**] 08:00 PM
   Levofloxacin - [**2121-3-9**] 10:00 PM
   Metronidazole - [**2121-3-10**] 07:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2121-3-9**] 08:00 PM
   Metoprolol - [**2121-3-9**] 11:43 PM
   Diazepam (Valium) - [**2121-3-10**] 02:25 AM
   Heparin Sodium (Prophylaxis) - [**2121-3-10**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-3-10**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.4
   HR: 73 (70 - 97) bpm
   BP: 107/64(74) {99/60(69) - 129/89(96)} mmHg
   RR: 35 (25 - 39) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,308 mL
                                                                    113 mL
   PO:
             TF:
   IVF:
                                                                  2,308 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                    490 mL
   Urine:
                                                                  1,775 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    533 mL
                                                                   -378 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.56/30/64//4
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): place
   only, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   445 K/uL
   99 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.1 mEq/L
   12 mg/dL
   104 mEq/L
   137 mEq/L
   30.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2121-3-7**]  04:35 AM
                             [**2121-3-8**]  12:59 AM
                             [**2121-3-8**]  01:12 AM
                             [**2121-3-8**]  03:45 AM
                             [**2121-3-8**]  09:44 AM
                             [**2121-3-8**]  02:07 PM
                             [**2121-3-8**]  07:38 PM
                             [**2121-3-8**]  07:58 PM
                             [**2121-3-9**]  04:26 AM
                             [**2121-3-9**]  11:38 AM
   WBC
   14.7
   13.3
   11.9
   Hct
   31.4
   29.4
   30.2
   31.7
   30.6
   Plt
   368
   392
   445
   Cr
   0.6
   0.5
   0.5
   TCO2
   31
   31
   30
   29
   28
   Glucose
   87
   96
   99
   Other labs: PT / PTT / INR:16.1/31.1/1.4, CK / CKMB /
   Troponin-T:29/2/0.08, ALT / AST:17/34, Alk Phos / T Bili:166/0.2,
   Amylase / Lipase:142/93, Differential-Neuts:89.9 %, Band:2.0 %,
   Lymph:6.9 %, Mono:2.2 %, Eos:0.8 %, Albumin:2.3 g/dL, LDH:393 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: Labs from today pending.
   Imaging: No new imaging.
   Microbiology: No new micro.
   Assessment and Plan
   44 yo man with a history of methamphetamine use, chronic pain, and COPD
   who presented with hypoxemic/hypercarbic respiratory failure c/b demand
   ischemia.  Transferred to [**Hospital Unit Name 4**] from OSH for continued management.
    # Respiratory failure:
   - Extubated, doing well
   - Continue levo; d/c vanc/flagyl
   - Continue nebs for COPD/asthma; taper steroids
   #Fever:
   - No clear source, but could be withdrawal.
   - F/U cultures
   - Tylenol prn
   - Finish abx as above
   # Polysubstance abuse: concerns for narcotic withdrawal given
   agitation/diphoresis. Also has h/o significant anxiety disorder with
   high benzo requirements.
   - Fentanyl TD (50mcg)
   - Valium prn
   #Nutrition
   - Advance diet as tolerated, if unable to [**Last Name (LF) 1070**], [**First Name3 (LF) **] need TPN for a
   few days
   #NSTEMI
   - no further evidence of further ischemia
   - will need cards workup once medically stabilized - stress test at
   some point either this admission or outpt f/u
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2121-3-7**] 03:53 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 28 minutes